US06337423B1
Under a nitrogen atmosphere, N-methyl-N-(3-{2[-2-(3-methylamino-propoxy)-ethoxy]-ethoxy}-propyl)-amine (130.56 mmols) was dissolved in dioxane (100 mL). Di-tert-butyl dicarbonate (Boc2O) (97.92 mmol) in 50 mL dioxane was added over 1.5 hours. The reaction was stirred at room temperature for 21 hours, then concentrated to dryness. The mixture was partitioned between EtOAc (100 mL) and 10% KHSO4 (50 mL), and the layers separated. The organic layer was washed with 10% KHSO4 (3×50 mL). The aqueous layer was acidified with 6M HCl to PH 3, washed with EtOAc (50 mL), made basic with solid NaOH. Saturated with NaCl, and washed with CHCl3. The combined organic layers were dried over Na2SO4, filtered, and concentrated to yield N-methyl-N-Boc-N-(3-{2[-2-(3-methylamino-propoxy)-ethoxy]-ethoxy }-propyl)-amine (18.66 g, 41 % yield).

reactant | N-methyl-N-(3-{2[-2-(3-methylamino-propoxy)-ethoxy]-ethoxy}-propyl)-amine | 130.56 mmols | CNCCCOCCOCCOCCCNC | C12H28N2O3
reactant | Di-tert-butyl dicarbonate | 97.92 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | N-methyl-N-Boc-N-(3-{2[-2-(3-methylamino-propoxy)-ethoxy]-ethoxy }-propyl)-amine | 18.66 g, 41 % yield | CN(CCCOCCOCCOCCCNC)C(=O)OC(C)(C)C | C17H36N2O5
